US07749992B2
A mixture of 5-Oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester (283 mg, 1.14 mmol), 3,5-Bis(trifluoromethyl)benzylamine (304 mg, 1.25 mmol) and titanium(IV) isopropoxide (0.43 ml, 1.43 mmol) was stirred at room temperature for 6 hours. The mixture was diluted with methanol (5 ml) and treated with sodium borohydride (65 mg, 1.71 mmol), then stirred at room temperature for 18 hours. The mixture was treated with 0.1N NaOH (25 ml) and stirred for 10 minutes, then filtered through Celite. The filtered residue washed successively with diethyl ether and dichloromethane. The filtrate was transferred to a separatory funnel and the organic layer was separated, dried (Na2SO4) and concentrated to provide crude 5-(3,5-Bis-trifluoromethyl-benzylamino)-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester, which was elaborated without purification.

reactant | 5-Oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester | 1.14 mmol, 283 mg | C(C)(C)OC(=O)N1C2=C(C(CCC1)=O)C=CC=C2 | C14H17NO3
reactant | 3,5-Bis(trifluoromethyl)benzylamine | 1.25 mmol, 304 mg | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | sodium borohydride | 1.71 mmol, 65 mg | [BH4-].[Na+]
reactant | NaOH | 0.1N, 25 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
catalyst | titanium(IV) isopropoxide | 1.43 mmol, 0.43 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 5-(3,5-Bis-trifluoromethyl-benzylamino)-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1C2=C(C(CCC1)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=CC=C2 | C23H24F6N2O2
